Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Morphine / Penicillins / Ace Inhibitors
 
Attending: ___
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
Cardiac Catherization ___

PICC placement ___
 
History of Present Illness:
___ yr old man who presented to ___ on ___ with 
shortness of breath. He was in his usual state of health until 
he woke up suddenly on ___ at 4am short of breath, with chest 
pressure. He had no associated dipahoresis, nausea, vomiting, or 
arm pain. It got progressively worse over the morning, and 
finally went to the ___ at 8am. He never had anything like 
this before. CXR showed CHF. BNP of 451. His symptoms were 
thought to be secondary to COPD exacerbation. Echocardiogram 
showed LVEF 30%, borderline dilated LV with basal posterior and 
lateral hypokeinsis, moderate aortic stenosis ___ 1.4, peak 
gradient 30, mean gradient 17), mild mitral regurgitation. On 
___, he had some chest pressure. He also had non-sustained VT 
on telemery. Renal ultrasound was "negative." He was then 
transferred to the ___ on ___ for cardiac 
catheterization.

There is a prior history of an inferior myocardial infarction 
with subsequent LVEF 45%, eventually resulting in a 
cardiomyopathy with LVEF 30% with known moderate aortic 
stenosis.

Upon presentation to ___, he noted his breathing has been 
worse this past ___ than any other time. Patient gets short 
of breath after walking ___ feet. This is always associated 
with exertion. It has been especially worse over the past week 
with wheezing. Patient denied other episodes of PND, or 
orthopnea. Reports some lower extremity edema at baseline. He 
had seen a pulmonologist before who did PFTs and started 
nebulizers for severe COPD, but the patient was diuretic naive.
 
Past Medical History:
Diabetes type II since ___
Hyperlipidemia
Advanced COPD/Asthma
BPH
Shoulder surgery
h/o DVT
GERD
DJD s/p Left hip replacement
s/p C1 laminectomy and suboccipital craniectomy
s/p colostomy and colectomy for colon cancer in ___
h/o benign tumor at base of spine -removed
 
Social History:
___
Family History:
Non-contributory; no family history of heart disease.
 
Physical Exam:
Gen: WDWN elderly Caucasian man in NAD. Oriented x3. Mood, 
affect appropriate.
VS - BP 144/44 (122-140)/(44-86) HR ___ RR 20 O2 99%
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.
Neck: Supple with no evidence of JVD.
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No murmurs, rubs or gallops. No thrills, 
lifts.
Chest: No chest wall deformities, scoliosis or kyphosis. 
Respirations were unlabored, no accessory muscle use. Diffuse 
wheezes throughout bilaterally.
Abd: Soft, NTND. No HSM or tenderness.
Ext: Warm, well perfused. 3+ pitting edema. Cath site: clean, 
dry and intact. No hematoma. No bruits. Good femoral and distal 
pulses.
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
 
Pertinent Results:
___ 07:00AM   ___
___ 07:05AM   ___ PTT-27.7 ___

___ 04:59PM   WBC-10.2 RBC-3.25* HGB-10.8* HCT-31.5* MCV-97 
MCH-33.2* MCHC-34.3 RDW-13.6
___ 04:59PM   PLT COUNT-313
___ 04:59PM   ___ PTT-26.1 ___

___ 04:59PM   GLUCOSE-235* UREA N-26* CREAT-1.2 SODIUM-136 
POTASSIUM-4.7 CHLORIDE-103 TOTAL CO2-25 ANION GAP-13
___ 06:00AM   HbA1C-7%*

___ 04:59PM   CK(CPK)-169 CK-MB-9 cTropnT-0.06*

___ 04:59PM   CHOLEST-169
___ 04:59PM   TRIGLYCER-101 HDL CHOL-70 CHOL/HDL-2.4 
LDL(CALC)-79 ___

ECG ___
Sinus rhythm with atrial premature complexes. Intra-atrial 
conduction defect. Right bundle-branch block with left anterior 
hemiblock. 

Cardiac Catheterization ___. Selective coronary angiography of this right dominant system 
demonstrated single vessel coronary artery disease.  The LMCA 
had a distal 30% lesion.  The LAD had mild diffuse disease 
throughout its length.  The LCx had a 70-80% lesion at the 
ostium.  The RCA had mild diffuse disease.
2. Limited resting hemodynamic measurement revealed severely 
elevated left sided filling pressure, with LVEDP of 36mmHg.  The 
systemic arterial pressure was normal at 137/66 mmHg.  There was 
no gradient upon careful pullback from the left ventricle to the 
aorta.
3. Left ventriculography was deferred given reduced GFR.

Echocardiogram ___
The left atrium is normal in size. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity is 
moderately dilated. There is moderate to severe global left 
ventricular hypokinesis (LVEF = 30 %). LV systolic function 
appears depressed. There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) are mildly thickened. There is mild 
aortic valve stenosis. Mild (1+) aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. Moderate (2+) mitral regurgitation is 
seen. There is mild pulmonary artery systolic hypertension. 
There is no pericardial effusion.  

Carotid ultrasound ___
There is calcific plaque involving the origin of the internal 
carotid arteries bilaterally and some wall thickening involving 
the left common carotid artery. However, the peak systolic 
velocities bilaterally are normal as are the ICA/CCA ratios. 
There is also normal antegrade flow involving the left vertebral 
artery, the right vertebral artery was not visualized, presumed 
hypoplastic or occluded. 

CXR ___
There is mild cardiomegaly and moderate tortuosity of the 
thoracic aorta. The lung volumes are within the normal range, on 
the lateral radiograph, however, moderate flattening of the 
hemidiaphragms is seen. This could suggest mild overinflation. 
The lung parenchyma shows slightly increased diameter of the 
upper lobe pulmonary vasculature, suggestive of basal apical 
blood flow redistribution due to increased intravascular fluid 
volume. There is no evidence of pleural effusion, however, 
subtle marking of the fissures with fluid is observed. Focal 
parenchymal opacity suggestive of pneumonia are not seen. The 
mediastinum is relatively dense, but no mediastinal or hilar 
abnormalities are seen. There is a wedge-shaped vertebral 
compression at the thoracolumbar junction. Post-surgical devices 
projecting over the right shoulder. 

PFTs: ___
SPIROMETRY 10:16 AM Pre drug
    Actual Pred %Pred
FVC   2.36 3.33 71       
FEV1   1.55 2.09 74       
MMF   0.68 1.88 36       
FEV1/FVC   66 63 104       
 
LUNG VOLUMES 10:16 AM Pre drug
    Actual Pred %Pred
TLC   4.49 5.74 78       
FRC   2.37 3.29 72       
RV   2.02 2.40 84       
VC   2.53 3.33 76       
IC   2.12 2.45 87       
ERV   0.35 0.89 40       
RV/TLC   45 42 107       
He Mix Time   2.00           
 
DLCO 10:16 AM   
    Actual Pred %Pred 
DSB   11.18 21.66 52       
VA(sb)   3.99 5.74 70       
HB   10.80           
DSB(HB)   12.80 21.66 59       
DL/VA   3.21 3.77 85       

CXR ___
Tip of the new left PIC line projects over the mid-to-low SVC. 
No interval radiographic change, including borderline 
cardiomegaly and atelectasis extending to the right hilus along 
the plane of the minor fissure. Left lung clear. No 
pneumothorax. Pleural effusion, if any, is minimal. 

Cultures: 
___ blood * 2 - NGTD
___ urine - NGTD, sputum - oropharyngeal flora (prelim)
 
Brief Hospital Course:
___ yo man with H/O hyperlipidemia, diabetes mellitus, known 
cardiomyopathy with LVEF 30% and moderate aortic stenosis, who 
presented with shortness of breath and was found to have a 
NSTEMI (peak troponin-I 0.12, troponin-T 0.06) now s/p 
catheterization on ___ that showed single vessel disease not 
favorable for PCI (ostial circumflex lesion). He was referred 
for CABG but developed a hospital acquired pneumonia and acute 
renal failure, delaying his surgery.  

# HAP - Infiltrate, leukocytosis, along with increased sputum 
production suggested likely pneumonia. In the context of several 
day hospital stay, prednisone use, and unknown PCN allergy, the 
patient was started on vancomycin, levofloxacin, and aztreonam 
on ___ for a ___ PICC was placed on ___ for 
antibiotics and the patient was given tylenol for fevers. The 
patient was cultured at the time of fever spike on ___. 
Cultures are without growth to date.  

# CAD: Catheterization showed severe disease at origin LCx and 
mild disease of left main. No interventions performed. Plan was 
to proceed to CABG, but this was deferred due to fever and 
pneumonia. He has been continued on medical management with ASA, 
high dose statin, beta-blockade. His lisinopril was stopped in 
the setting of renal insufficiency and a history of hyperkalemia 
while on an ACE-I. The patient has an outpatient follow up 
appointment with Dr. ___ Cardiac ___ (CXR and labs 
prior) to reschedule his CABG.

# Pump: Echo showed EF of 30%, mild symmetric LVH, and global LV 
hypokinesis, consistent with acute on chronic LV systolic and 
diastolic heart failure. The patient was aggresively diuresed 
upon arrival. He was felt to remain slightly hypervolemic 
although diuresis was limited by development of acute renal 
failure.  Strict I/Os and daily weights were followed although 
there is no known dry weight for this patient. As the patient is 
on multiple, frequent antibiotics, his fluid intake is currently 
quite high. He was started on Lasix 40 mg BID and should be 
maintained on this regimen until his pneumonia treatment is 
complete. He should then return to a 40 mg daily dosing regimen. 
If, however, his I/Os are positive for >1 day, diuretics dosing 
should be addressed after considering insensible losses.

# Rhythm: Patient was monitored on tele and remained in normal 
sinus rhythm aside from infrequent PVCs and a 3 beat run of SVT.

# COPD: Patient had in-house PFTs obtained with a FEV1/FVC ratio 
of 66% (FEV1 1.6, FVC 2.4); TLC was 4.5, RFC 2.4. PFTs 
consistent with mild restrictive ventilatory defect with 
moderate gas exchange defect from an interstitial process. O2 
saturations were >95% on RA although he was, at times, placed on 
2L NC for patient comfort. He was given Solumedrol IV for COPD 
exacerbation at the OSH and was converted to prednisone 40 mg 
PO. He was tapered and currently maintained on prednisone 20 mg 
daily in setting of pneumonia with bronchospastic component. He 
should be tapered to 10 mg on ___ and continue 10 mg on ___ 
and ___. His last steroid dose should be on ___.  He was also 
treated with Singulair, Xopenex, Tiotropium, Advair, and 
Montelukast on advise of the pulmonary consult service. He 
should be maintained on these meds. He was also given PRN 
ipratropium which provided relief.

# Acute renal failure: This was felt to be pre-renal in origin 
given recent aggressive diuresis. Max creatinine was 1.6. 
Diuresis was held for 3 days and restarted in setting of 
decreasing creatinine and large volume intake with antibiotics. 
Current creatinine at 1.4. CT surgery was comfortable with CABG 
as long as creatinine <1.5. Plan to recheck prior to f/u CT 
sugery appoitment.    

# Diabetes mellitus type 2: Patient was maintained on SSI with 
QID FSBS and had values in the high 200s and low 300s. As a 
result, he was started on Lantus 5 units ___ and increased to 8 
on ___ for FSBS in the mid ___. Plan to continue to monitor 
FSBS QID with current lantus dosing and sliding scale coverage 
with adjustments as outpatient.

# BPH: Patient was maintained on Flomax and Proscar per 
outpatient regimen.  

On ___, the patient had a PICC placed for antibiotic use, was 
walking with ___ with ambulatory sats in the mid ___ on room air, 
and was felt to be appropriate for discharge to an extended care 
facility in good condition with follow up scheduled with CT 
surgery. Communication was/is with the patient and his 
daughter's ___ ___ and ___ ___ who are 
actively involved in his care.
 
Medications on Admission:
Theophylline 300 mg bid
Metformin 500 mg bid
Januvia 100 mg daily
ASA 325 mg daily
Adviar 500 mg 1 puff bid
Flomax 0.4 mg daily
Proscar 5 mg daily
Protonix 40 mg daily
Glyburide 2.5 mg daily
Simvastatin 20 mg daily
Fosamax 70 mg q week
Singulair 10 mg daily
MVI daily
 
Discharge Medications:
1. Aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
2. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).
3. Finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
4. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).
5. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
6. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily).
7. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).
8. Simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).
9. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).
10. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1) 
injection Injection TID (3 times a day): Please continue for DVT 
prophylaxis if patient not ambulating.
11. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).
12. Levalbuterol HCl 0.63 mg/3 mL Solution for Nebulization Sig: 
One (1) inh Inhalation Q6H (every 6 hours).
13. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).
14. Fluticasone-Salmeterol 500-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).
15. Insulin Glargine 100 unit/mL Cartridge Sig: Eight (8) u 
Subcutaneous at bedtime.
16. Furosemide 40 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day): Please continue BID dosing while on antibiotics. Then 
change back to 40mg once daily dosing.
17. Prednisone 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily): Please give 20mg on ___, then decrease to 10mg for 
___. Systemic steroid course should be completed with 
last dose on ___.
18. Dextromethorphan-Guaifenesin ___ mg/5 mL Syrup Sig: Ten 
(10) ML PO Q6H (every 6 hours) as needed.
19. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours) as needed.
20. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed.
21. Menthol-Cetylpyridinium 3 mg Lozenge Sig: ___ Lozenges 
Mucous membrane PRN (as needed).
22. Levofloxacin 250 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours): 7 day course starting on ___.
23. Sodium Chloride 0.9%  Flush 3 mL IV PRN line flush 
Peripheral line: Flush with 3 mL Normal Saline every 8 hours and 
PRN.
24. Aztreonam 1 gram Recon Soln Sig: One (1) Recon Soln 
Injection Q8H (every 8 hours): 7 day course starting on ___.
25. Vancomycin in Dextrose 1 gram/200 mL Piggyback Sig: One (1)  
Intravenous Q 24H (Every 24 Hours): 7 day course starting on 
___.
26. Heparin, Porcine (PF) 10 unit/mL Syringe Sig: One (1) ML 
Intravenous PRN (as needed) as needed for line flush.
27. PICC line care: PICC line care per PICC line protocol
28. Outpatient Lab Work: Please obtain CBC, BMP, and ___ 
prior to follow up appointment with Dr. ___.
Please also obtain CXR prior to appointment with Dr. ___.
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute on chronic systolic and diastolic left ventricular 
congestive heart failure
Non-ST elevation Myocardial Infarction
Coronary artery disease
Acute renal failure
Hospital acquired pneumonia
Restrictive and obstructive lung disease
Mild-moderate aortic stenosis
Hypoplastic or occluded right vertebral artery
Supraventricular tachycardia
Benign prostatic hypertrophy
Hyperlipidemia
Diabetes mellitus
 
Discharge Condition:
Good
 
Discharge Instructions:
You were transferred to ___ because you were 
found to have congestive heart failure. You had an 
echocardiogram which showed decreased pumping function as a 
result of damage to the heart muscle. You also had a slight 
increase in a blood marker that is used to test for heart muscle 
damage. This means you have suffered some strain on your heart. 
Much of this was likely a result of decreased pumping that 
caused back up of fluids causing your shortness of breath. You 
were aggressively diuresed with lasix to remove the extra 
fluids.

You also had a cardiac catheterization which showed 30% blockage 
in your left mainstem artery and 80% blockage in your left 
circumflex artery effectively decrease the blood supply to your 
heart muscle. The resulting plan was to proceed to CABG 
operation to by-pass these arteries.

Unfortunately, your kidney function was also slightly abnormal 
and, while waiting for it to improve, you developed a pneumonia. 
Because you had been in the hospital for several days prior to 
developing the pneumonia, it needed to be treated as per a 
hospital-acquired pneumonia protocol. Since your kidney function 
looks improved but you need a 7 day course of antibiotics for 
your pneumonia, you are going to an extended care facility prior 
to your CABG.

You have a follow up appointment with Dr. ___. You will 
address rescheduling your CABG at that time. You should also 
have blood work done prior to this appointment.

Please call alert the healthcare staff of your extended care 
facility if you have worsening swelling in your arms, legs or 
abdomen, shortness of breath, chest pain, pressure, or 
tightness, nausea, fever, chills, difficulty laying flat or 
waking up short of breath or any other concerning symptoms.
 
Followup Instructions:
___